US08022069B2
3-{(2R,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-2-yl}-2,2,N-trimethyl -propionamide
According to general procedure D, 1.0 mmol of 3-[(2R,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid are reacted with methylamine (8M in EtOH) to afford the title compound which is identified based on its Rf value.

reactant | 3-[(2R,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid | 1.0 mmol | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(=O)O)(C)C)C | C42H58N2O9S
reactant | methylamine | 8M | CN | CH5N
product | 3-{(2R,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidin-2-yl}-2,2,N-trimethyl -propionamide | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@@H](NC[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)CC(C(=O)NC)(C)C)C | C36H55N3O6
